US05668291
1,1'-[dithiobis(2,1-phenylenecarbonyl)]bis-4-piperidine carboxylic acid
Isonipecotic acid (4-piperidinecarboxylic acid) (0.76 g, 6 mmol), N-methyl-N-trimethylsilylacetamide and 3 drops of pyridine were stirred at room temperature for 2 hours. This suspension was added to a filtered solution of 2,2'-dithiobisbenzoyl chloride (1.0 g, 3.0 mmol) in 15 mL of dichloromethane. The solvent was removed after 18 hours and the residue was triturated with 1N HCl. The acid was decanted and the residue was dissolved in acetonitrile. After standing for 24 hours a precipitate formed. The solid was collected and dried to give 0.56 g of the title compound, mp >250° C.;

reactant | Isonipecotic acid | 6 mmol, 0.76 g | N1CCC(C(=O)O)CC1 | C6H11NO2
reactant | N-methyl-N-trimethylsilylacetamide | CN(C(C)=O)[Si](C)(C)C | C6H15NOSi
reactant | 2,2'-dithiobisbenzoyl chloride | 3.0 mmol, 1.0 g | C(C1=C(C=CC=C1)SSC1=C(C(=O)Cl)C=CC=C1)(=O)Cl | C14H8Cl2O2S2
catalyst | pyridine | 3 drops | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 1,1'-[dithiobis(2,1-phenylenecarbonyl)]bis-4-piperidine carboxylic acid | 0.56 g | C1(=C(C=CC=C1)SSC1=C(C=CC=C1)C(=O)N1CCC(CC1)C(=O)O)C(=O)N1CCC(CC1)C(=O)O | C26H28N2O6S2
